US08530475B2
(S)-2-Methyl-5-oxiranylmethoxy-pyridine
6-Methyl-pyridin-3-ol (0.218 g, 2.0 mmol) was placed in a flask with DMF (10 mL) and NaH (60% dispersion in oil, 77 mg, 2.0 mmol) and stirred for 30 min. at room temperature. (S)-glycidyl 3-nitrobenzene sulfonate (0.52 g, 2.0 mmol) was then added to the reaction mixture, which was then stirred at room temperature for 14 hours. The reaction was quenched with NaHCO3 (saturated) and then extracted three times with ethyl acetate. The organic layer was dried with magnesium sulfate, filtered and the solvent was evaporated under reduced pressure to yield crude product which was purified by silica gel chromatography (60% Ethyl acetate/heptane) to yield the title compound as a residue.

reactant | 6-Methyl-pyridin-3-ol | 2.0 mmol, 0.218 g | CC1=CC=C(C=N1)O | C6H7NO
reactant | NaH | 2.0 mmol, 77 mg | [H-].[Na+]
reactant | (S)-glycidyl 3-nitrobenzene sulfonate | 2.0 mmol, 0.52 g | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)OC[C@@H]1CO1 | C9H9NO6S
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | (S)-2-Methyl-5-oxiranylmethoxy-pyridine | CC1=NC=C(C=C1)OC[C@H]1OC1 | C9H11NO2
